US04593035
6-Amino-3,4-dihydrocarbostyril (60 g) is added to a solution of potassium carbonate (128 g) in water (300 ml) and acetone (300 ml), and thereto is added dropwise ethyl chlorocarbonate (46 ml) with stirring under ice-cooling. After the addition, the mixture is further reacted at the same temperature for 30 minutes. After the reaction, the reaction mixture is poured into water, and the resulting precipitate is separated by filtration, washed with water and further with diethyl ether. After drying, the crystal thus obtained is purified by silica gel column chromatography (solvent; chloroform:methanol=100:1) and then recrystallized from ethanol to give 6-ethoxycarbonylamino-3,4-dihydrocarbostyril (68.5 g), as colorless prisms, m.p. 193°-194° C.

reactant | 6-Amino-3,4-dihydrocarbostyril | 60 g | NC=1C=C2CCC(NC2=CC1)=O | C9H10N2O
reactant | potassium carbonate | 128 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chlorocarbonate | 46 ml | C(OCC)(=O)Cl | C3H5ClO2
solvent | water | 300 ml | O | H2O
solvent | acetone | 300 ml | CC(=O)C | C3H6O
product | 6-ethoxycarbonylamino-3,4-dihydrocarbostyril | 68.5 g | C(C)OC(=O)NC=1C=C2CCC(NC2=CC1)=O | C12H14N2O3
